US06544985B2
3-(2-Bromo-1,1-dimethoxy-ethyl)-benzoic acid methyl ester (3.9 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester (2.8 g) as a yellow oil.

reactant | 3-(2-Bromo-1,1-dimethoxy-ethyl)-benzoic acid methyl ester | 3.9 g | COC(C1=CC(=CC=C1)C(CBr)(OC)OC)=O | C12H15BrO4
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C(CBr)(OC)OC)=O)=O | C17H23BrO5
